US09359338B2
Step 1: Synthesis of 2-fluoroethyl 4-methylbenzenesulfonate
Add toluenesulfonyl chloride (1.8 g, 9.4 mmol) to the mixture of 2-fluoroethanol (500 mg, 7.8 mmol) and triethylamine (1.6 g, 15.6 mmol) in dichloromethane (30 mL) at 0-5° C. Stir the reaction at ambient temperature for 5 hrs. Remove the volatiles under reduced pressure to yield the crude product. Purify by flash chromatography (silica gel, PE:EtOAc=2:1) to afford a white solid as the title compound (1.3 g, 77%).

reactant | toluenesulfonyl chloride | 9.4 mmol, 1.8 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-fluoroethanol | 7.8 mmol, 500 mg | FCCO | C2H5FO
reactant | triethylamine | 15.6 mmol, 1.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-fluoroethyl 4-methylbenzenesulfonate | 1.3 g, 77% | CC1=CC=C(C=C1)S(=O)(=O)OCCF | C9H11FO3S
